US04663334
5-Iodo-2-methyl-3-methylthio-1H-indole
A solution of 10.9 g (91 mmole) of 5-butylhypochlorite in 40 mL of CH2Cl2 was added dropwise to a solution of 20.0 g (91 mmole) of 4-iodoaniline in 300 mL of CH2Cl2 at -70° C. After 10 min, a solution of 7.43 mL (91 mmole) of methylthioacetone in 40 mL of CH2Cl2 was added dropwise. After stirring for 90 min, 12.7 mL of triethylamine was added. The reaction was allowed to warm to room temperature. The mixture was washed with water, dried (K2CO3) and the solvent evaporated in vacuo. The residue was extracted with hot hexane. The precipitated crystals were collected to give 2.95 g (11% yield) of the title compound. The mp after recrystallization from CH2Cl2 -hexane was 95°-97° C.

reactant | 4-iodoaniline | 91 mmole, 20.0 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | methylthioacetone | 91 mmole, 7.43 mL | CCC(C)=S | C4H8S
reactant | triethylamine | 12.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-Iodo-2-methyl-3-methylthio-1H-indole | 2.95 g, 11% yield | IC=1C=C2C(=C(NC2=CC1)C)SC | C10H10INS
